US04122263
2-(2'-methallylthio-5'-chlorophenyl)-imidazoline hydrochloride
32 Parts of 4-chlorobenzothietane-2-spiro-2'-imidazolidine is reacted in 400 parts of methanol with 13.6 parts of methallyl chloride as described in Example 11. The yield is 42 parts (92% of theory) and the melting point is 228° C.

reactant | 4-chlorobenzothietane-2-spiro-2'-imidazolidine | ClC=1C=CC2=C(C1)C1(NCCN1)S2 | C9H9ClN2S
reactant | methallyl chloride | C(C(C)=C)Cl | C4H7Cl
solvent | methanol | CO | CH4O
product | 2-(2'-methallylthio-5'-chlorophenyl)-imidazoline hydrochloride | Cl.C(C(C)=C)SC1=C(C=C(C=C1)Cl)C=1NCCN1 | InChI=1S/C13H15ClN2S.ClH/c1-9(2)8-17-12-4-3-10(14)7-11(12)13-15-5-6-16-13;/h3-4,7H,1,5-6,8H2,2H3,(H,15,16);1H
